US05880188
b) Preparation of 2-(3-bromo-2-thienyl)-1,3-dioxolane
3-bromo-2-formylthiophene (3.89 parts, 0.02M) was heated at reflux with dry ethyleneglycol (1.6 parts) toluene (25 parts) and p-toluene sulphonic acid (0.1 parts) in a vessel equipped with a Dean and Stark separator for 16 hours. The reactants were then cooled and evaporated into silica. The silica was formed into a column which was then developed by elution with hexane containing increasing amounts of dichloromethane. The product was obtained from fractions containing 10-60% dichloromethane as a pale straw-coloured oil (4.42 parts).

reactant | 3-bromo-2-formylthiophene | 0.02M | BrC1=C(SC=C1)C=O | C5H3BrOS
reactant | ethyleneglycol | C(CO)O | C2H6O2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | p-toluene sulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(3-bromo-2-thienyl)-1,3-dioxolane | BrC1=C(SC=C1)C1OCCO1 | C7H7BrO2S
